US20010018525A1
Step 2 N-(8-Phenyloctyl)-3-iodo-4-hydroxybenzamide
To a stirring solution of 3-iodo-4-hydroxy-benzoic acid (2.64 g, 10.00 mmol) in fresh DMF (50 mL) at ambient temperature under an atmosphere of N2 was added EDC (2.11 g, 11.00 mmol), HOBt (1.49 g, 11.00 mmol) and DIPEA (1.94 g, 2.61 mL, 15.00 mmol). The solution was allowed to stir at ambient temperature for 1 hour at which time 8-phenyl-octylamine (2.46 g, 2.39 mL, 12 mmol) was added at one time. The solution was allowed to stir for an additional 4 hours at which time the it was diluted with water (250 mL) and extracted with ethyl acetate (250 mL). The organic phase was washed with water (2×250 mL), saturated aqueous NaHCO3 (250 mL) and saturated aqueous NaCl (250 mL). The solvent was removed in vacuo to yield 4.62 g of crude oil. The crude oil was purified by column chromatography (7:3 hexane:ethyl acetate) to yield 4.47 g (99%) of the desired product as a clear oil, which crystallized upon standing. 1H NMR (CDCl3) δ8.19 (dd, 2H), 7.60 (dd, 1H), 7.20 (m, 4H), 6.97 (dd, 1H), 6.32 (t, 1H), 3.39 (q, 2H), 2.57 (t, 2H), 1.58 (m, 4H), 1.30 (m, 8H).

reactant | 3-iodo-4-hydroxy-benzoic acid | 10.00 mmol, 2.64 g | IC=1C=C(C(=O)O)C=CC1O | C7H5IO3
reactant | EDC | 11.00 mmol, 2.11 g
reactant | HOBt | 11.00 mmol, 1.49 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 15.00 mmol, 2.61 mL, 1.94 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 8-phenyl-octylamine | 12 mmol, 2.39 mL, 2.46 g | C1(=CC=CC=C1)CCCCCCCCN | C14H23N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 250 mL | O | H2O
product | N-(8-Phenyloctyl)-3-iodo-4-hydroxybenzamide | 4.47 g, 99% | C1(=CC=CC=C1)CCCCCCCCNC(C1=CC(=C(C=C1)O)I)=O | C21H26INO2
